* OpenS Generated Netlist
.preprocess addresistors nodcpath 1G
.model DRIVER npy MODULE=controller_hbridge CLASS=Controller PYTHONPATH=/Users/rennekef/Documents/SchematicEntry/backup/tests/grid-tie/grid-tie-lib/h_bridge
.model BOOT_DIODE D (IS=1e-14 N=1 RS=0.1 CJO=1p M=0.5 TT=1n)
.model POWER_MOS NMOS (LEVEL=1 VTO=2.5 KP=0.5 LAMBDA=0.02 CGSO=100p CGDO=10p CBD=50p)
C1 BOOT1 P1 1u
C2 BOOT2 P2 1u
C3 BOOT1 GND 10p
C4 BOOT2 GND 10p
D1 VHIGH_VDD BOOT1 BOOT_DIODE
D2 VHIGH_VDD BOOT2 BOOT_DIODE
M1 VHIGH_VDD H1 P1 P1 POWER_MOS L=1u W=10u m=1
M2 P1 L1 GND GND POWER_MOS L=1u W=10u m=1
M3 VHIGH_VDD H2 P2 P2 POWER_MOS L=1u W=10u m=1
M4 P2 L2 GND GND POWER_MOS L=1u W=10u m=1
N1 VHIGH_VDD N_1 N_2 en_1_i en_2_i N_3 N_4 GND L1 L2 BOOT1 P2 P1 BOOT2 H2 H1 DRIVER
R1 VIN VHIGH_VDD 0.1
* --- Stimuli from stimuli.json ---
V_STIM_1_VIN VIN 0 30
V_STIM_2_GND GND 0 0
V_STIM_3_en_1_i en_1_i 0 PWL(0.0 0.0 1e-07 0.0 1.0099999999999999e-07 3.3 2.0099999999999999e-07 3.3 2.0199999999999998e-07 0.0 3.02e-07 0.0)
V_STIM_4_en_2_i en_2_i 0 PWL(0.0 3.3 1e-07 3.3 1.0099999999999999e-07 0.0 2.0099999999999999e-07 0.0 2.0199999999999998e-07 3.3 3.02e-07 3.3)
* --- Network between P1 and P2 ---
R_STIM_1 P1 P2 100
* ----------------------------------------
.tran 1n 400n
.print tran v(*) 
.end